US08168794B2
To a solution of (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-hydroxypiperidine-1-carboxylate (1 eq) in 10 mL dichloromethane was added Dess-Martin periodinane (1.2 eq) at room temperature. The reaction mixture was stirred at that temperature overnight. The mixture was diluted with ethyl acetate, washed with brine, then dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (EtOAc:hexanes=1:2) to yield (S)-benzyl 3-(tert-butoxycarbonylamino)-5-oxopiperidine-1-carboxylate (81%). LC/MS (m/z): 249.1 (MH+-100), Rt: 0.83 min. HPLC: Rt: 3.26 min.

reactant | (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-hydroxypiperidine-1-carboxylate | 1 eq | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C18H26N2O5
reactant | Dess-Martin periodinane | 1.2 eq | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-benzyl 3-(tert-butoxycarbonylamino)-5-oxopiperidine-1-carboxylate | 81% | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC(C1)=O)C(=O)OCC1=CC=CC=C1 | C18H24N2O5
